US05336778
Step B: 3-Ethylthio-4-(4-nitrobenzyl)-5-phenyl-4H-1,2,4-triazole
Reaction of 2,4-dihydro-4-(4-nitrobenzyl)-5-phenyl-3H-1,2,4-triazole-3-thione with ethyl iodide according to the procedure of Example 6, Part B, gave a 91% yield of the desired product as a solid, mp 107.5°-108.5° C., homogeneous by TLC in 97:3 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 341 (M+1)+.

reactant | 2,4-dihydro-4-(4-nitrobenzyl)-5-phenyl-3H-1,2,4-triazole-3-thione | [N+](=O)([O-])C1=CC=C(CN2C(NN=C2C2=CC=CC=C2)=S)C=C1 | C15H12N4O2S
reactant | ethyl iodide | C(C)I | C2H5I
product | 3-Ethylthio-4-(4-nitrobenzyl)-5-phenyl-4H-1,2,4-triazole | 91% yield | C(C)SC1=NN=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H16N4O2S
